### PR TITLE
[Merged by Bors] - chore: remove last few instances of `set_option tactic.skipAssignedInstances false`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR removes the last few instances of the backward compatability option `set_option tactic.skipAssignedInstances false`.

To achieve this, the `simp` tag from `Disjoint.of_image_finset` is removed, which I think shouldn't have been a simp lemma in the first place.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

**Review by grunweg — COMMENTED** [review]
This PR is great *in principle*! Let's check that performance is alright (some of these options were restored for performance reasons) --- I've sent it for benchmarking.

**Comment by grunweg** [comment]
And the report is positive (neutral/slight positive).

**Comment by JovanGerb** [comment]
Generally there is a speedup.
The only changed file that slowed down is `Mathlib.Combinatorics.SetFamily.Shadow`, but only by `0,463 %`. It has a really slow `aesop`. This improved a bit by removing that simp lemma. But, looking at the trace, it looks like `aesop` is repeatedly solving the same goals?

File: Mathlib/Data/Finset/Image.lean [hunk 1]
```diff
@@ -492,7 +492,6 @@ theorem image_symmDiff [DecidableEq α] {f : α → β} (s t : Finset α) (hf :
     (s ∆ t).image f = s.image f ∆ t.image f :=
   mod_cast Set.image_symmDiff hf s t
 
-@[simp]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Image.lean:495]: Why this change?

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -91,9 +91,9 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
 
 lemma changeLevel_eq_cast_of_dvd {m : ℕ} (hm : n ∣ m) (a : Units (ZMod m)) :
     (changeLevel hm χ) a = χ (ZMod.cast (a : ZMod m)) := by
-  set_option tactic.skipAssignedInstances false in
-  simpa [changeLevel_def, Function.comp_apply, MonoidHom.coe_comp] using
-      toUnitHom_eq_char' _ <| ZMod.isUnit_cast_of_dvd hm a
+  simp only [changeLevel_def, toUnitHom_eq, ofUnitHom_eq, equivToUnitHom_symm_coe,
+    MonoidHom.coe_comp, Function.comp_apply, coe_equivToUnitHom]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:96]: Missing lemma?

File: Mathlib/Data/Finset/Image.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Data/Finset/Image.lean:495]: It seems a bit of a strange simp lemma to me, since it introduces a metavariable `f` inside of the subgoal `h` that needs to be discharged. And this was slowing down the `simp` in the `aesop` at `mem_shadow_iterate_iff_exists_card`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:96]: Yes, there is a missing lemma about `ZMod.unitsMap`:
One can go from `Units (ZMod 10)` to `ZMod 5` either via `ZMod 10` or via `Units (ZMod 5)`. I've added it like this:
```
@[simp]
def val_unitsMap {m n : Nat} (h : n ∣ m) (a : Units (ZMod m)) :
    (ZMod.unitsMap h a).val = (a.val).cast := rfl
```
This works to fix this `simp`, but it is non-confluent in combination with `[MulChar.one_apply_coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/MulChar/Basic.html#MulChar.one_apply_coe)`. This caused the `simp` in `DirichletCharacter.changeLevel` to break down.

But I fixed that `simp` by changing the simp normal form of `MulChar.EquivToUnitHom` to be `MulChar.mulEquivToUnitHom`, so that it simplifies away the 1 more easily.

File: Mathlib/Algebra/Group/Hom/CompTypeclasses.lean [hunk 3]
```diff
@@ -93,7 +93,6 @@ lemma comp_apply
     ψ (φ x) = χ x := by
   rw [← h.comp_eq, MonoidHom.comp_apply]
 
-@[simp]
```
Comment (JovanGerb) [inline Mathlib/Algebra/Group/Hom/CompTypeclasses.lean:96]: Similarly here, this lemma introduces a metavariable `φ₁₂` in the rewritten term and in two subgoals that need to be discharged, so it doesn't seem to be a good simp lemma. Should I do this in a separate PR?

**Comment by bryangingechen** [comment]
Are these bad simp lemmas you found examples of a pattern that could be detected by a linter?

**Comment by JovanGerb** [comment]
Hmm, it would definitely be possible to check for variables that appear in a subgoal or in the RHS, but not in the LHS. However I don't know if there are simp lemmas that have this property on purpose.

It is in principle possible to instantiate the metavairables in the subgoals, because `simp` allows you to specify a discharger, so it's not necessarily bad to have such simp lemmas. But it's probably better to not have such lemmas in the default simp set.

**Review by mattrobball — APPROVED** [review]
Looks good to me. I would interested in dredging the code for more cases of the pattern you identified here in the `simp` theorems. But that can be left for the future. Thanks!

**Comment by mattrobball** [comment]
bors delegate+
